US04517202
6-[(E)-3-tert-Butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (4.1 mg), prepared as described in Reference Example 54, and in the form of (±)-6β-[(E)-(mixture of 3α and 3β)-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S), [mixture of (15R) and (15S)]-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate, and a solution of water, glacial acetic acid and tetrahydrofuran (1.0 ml; 7:13:2 by volume) were stirred together at 40° C. for 4 hours. After cooling, the mixture was diluted with saturated aqueous sodium chloride solution and extracted with diethyl ether. The extract was washed with aqueous sodium bicarbonate solution (1M) and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue (3.0 mg) was subjected to preparative thin layer chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (3:2 v/v), to give 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl] -3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (0.9 mg), in the form of (±)-6β-[(E)-(mixture of 3α and 3β)-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S), [mixture of (15R) and (15S)]-6a-oxo-6,9-methano-15-hydroxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate.

reactant | 6-[(E)-3-tert-Butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 4.1 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C30H44O5Si
reactant | 3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | COC(=O)CCC\C=C/1\C(C2CCCC2C1)=O | C14H20O3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl] -3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 0.9 mg | OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C24H30O5
